US07517910B2
{4-[(3-methyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol
A mixture of 3-methyl-5-phenyl-1H-pyrazole (760 mg, 5.0 mmol), [4-(chloromethyl)phenyl]methanol (850 mg, 5.43 mmol), potassium carbonate (1.38 g, 10.0 mmol) and N,N-dimethylformamide (20 mL) was stirred at 120° C. for 1 hr. The reaction mixture was poured into 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.) and concentrated. The residue was purified by silica gel column chromatography (10%-80% ethyl acetate/hexane) to give the title compound (850 mg, yield 61%) as colorless crystals. 1H NMR (CDCl3) δ: 2.21 (3H, s), 4.66 (2H, s), 5.33 (2H, s), 6.38 (1H, s), 7.13 (2H, d, J=8.1 Hz), 7.27-7.34 (3H, m), 7.34-7.42 (2H, m), 7.77-7.83 (2H, m).

reactant | 3-methyl-5-phenyl-1H-pyrazole | 5.0 mmol, 760 mg | CC1=NNC(=C1)C1=CC=CC=C1 | C10H10N2
reactant | [4-(chloromethyl)phenyl]methanol | 5.43 mmol, 850 mg | ClCC1=CC=C(C=C1)CO | C8H9ClO
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | {4-[(3-methyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol | 850 mg, yield 61% | CC1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)CO | C18H18N2O
